US06982348B2
To a solution of (1RS,2SR)-2-amino-3-[3-(tert-butyl)phenyl]-1-(3-chlorophenyl)-1-propanol (0.313 g, 0.985 mmol) in N,N-dimethylformamide (5 ml) were added 5-chloronaphthalene-1-carboxylic acid (0.214 g, 1.04 mmol) and 1-hydroxybenzotriazole monohydrate (0.160 g, 1.04 mmol), and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.20 g, 1.04 mmol) was finally added. The mixture was stirred overnight at room temperature. The mixture was diluted with ethyl acetate, washed with saturated aqueous sodium hydrogen carbonate solution, water and saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by recrystallization (hexane-ethyl acetate) to give N-[(1RS,2SR)-1-[3-(tert-butyl)benzyl]-2-(3-chlorophenyl)-2-hydroxyethyl]-5-chloro-1-naphthamide (0.307 g, 62%) as colorless crystals.

reactant | (1RS,2SR)-2-amino-3-[3-(tert-butyl)phenyl]-1-(3-chlorophenyl)-1-propanol | 0.985 mmol, 0.313 g | NC(C(O)C1=CC(=CC=C1)Cl)CC1=CC(=CC=C1)C(C)(C)C | C19H24ClNO
reactant | 5-chloronaphthalene-1-carboxylic acid | 1.04 mmol, 0.214 g | ClC1=C2C=CC=C(C2=CC=C1)C(=O)O | C11H7ClO2
reactant | 1-hydroxybenzotriazole monohydrate | 1.04 mmol, 0.160 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.04 mmol, 0.20 g | Cl.C(C)N=C=NCCCN(C)C
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[(1RS,2SR)-1-[3-(tert-butyl)benzyl]-2-(3-chlorophenyl)-2-hydroxyethyl]-5-chloro-1-naphthamide | 0.307 g, 62% | C(C)(C)(C)C=1C=C(CC(C(O)C2=CC(=CC=C2)Cl)NC(=O)C2=CC=CC3=C(C=CC=C23)Cl)C=CC1 | C30H29Cl2NO2
